US06063782
1-(2-Butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine hydrochloride
A solution of 0.36 g (0.01 mole) of hydrogen chloride in 3.0 ml of ethanol was added dropwise with ice-cooling to a solution of 2.00 g (0.00615 mole) of 1-(2-butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=1/99) in 160 ml of dry diethyl ether and the resulting mixture was stirred at the same temperature for 20 minutes. The reaction mixture was concentrated at room temperature and the residue was washed with a mixture of 10 ml of ethanol and 120 ml of dry diethyl ether. The solid mass thus obtained was then collected by filtration to give 1.88 g of the title compound (trans) as a white powder.

reactant | hydrogen chloride | 0.01 mole, 0.36 g | Cl | ClH
reactant | 1-(2-butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.00615 mole, 2.00 g | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | C19H20FN3O
solvent | ethanol | 3.0 ml | C(C)O | C2H6O
solvent | diethyl ether | 160 ml | C(C)OCC | C4H10O
product | 1-(2-Butenyl)-7-(4-fluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine hydrochloride | 1.88 g | Cl.C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=CC=C(C=C2)F)C)C | InChI=1S/C19H20FN3O.ClH/c1-4-5-10-23-14(3)13(2)17-11-21-22-19(18(17)23)24-12-15-6-8-16(20)9-7-15;/h4-9,11H,10,12H2,1-3H3;1H
